US07442708B2
3-(3-Methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarboxylic acid
26.2 ml of 1 N sodium hydroxide are added to 5 g (13.1 mmol) of ethyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarboxylate, a compound of Example 13—prepared according to the procedure of Example 1 by benzoylation of ethyl (2-methylindolizin-1-yl)carboxylate described in J. Chem. Soc., (1963), pp. 3277-3280—, in suspension in 50 ml of dioxane, and the medium is heated under reflux for 17 hours. The reaction medium is concentrated under reduced pressure. The residue is taken up in water, washed with ethyl ether, and the medium is separated after settling out. The aqueous phase is acidified to pH 6 with a potassium hydrogen sulphate solution and extracted with ethyl acetate. The organic phase is washed with water, dried over sodium sulphate and concentrated under reduced pressure. 4.9 g of an orange-coloured powder are obtained.

reactant | sodium hydroxide | 1 N, 26.2 ml | [OH-].[Na+]
reactant | ethyl 3-(3-methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarboxylate | 13.1 mmol, 5 g | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)C(=O)OCC)C)C=CC1[N+](=O)[O-] | C20H18N2O6
reactant | ethyl (2-methylindolizin-1-yl)carboxylate | CC=1C(=C2C=CC=CN2C1)C(=O)OCC | C12H13NO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(3-Methoxy-4-nitrobenzoyl)-2-methylindolizin-1-ylcarboxylic acid | 4.9 g, Yield: quantitative | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)C(=O)O)C)C=CC1[N+](=O)[O-] | C18H14N2O6
